US08222269B2
1-[3-(1-Methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]-N-(pyridin-2-ylmethyl)methanesulfonamide (Compound 8-2)
1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(pyridin-2-ylmethyl)methanesulfonamide (31.0 g, 72.8 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H pyrazole (22.72 g, 109 mmol), potassium fluoride (13.96 g, 240 mmol), tri-t-butylphosphonium tetrafluoroborate (2.112 g, 7.28 mmol), and Pd2(dba)3 (3.33 g, 3.64 mmol) were placed in a flask under an atmosphere of argon. DMF (364 ml) was added and argon was bubbled through the solution for several minutes. The solution was then heated at 130° C. for 6 h. The mixture was then cooled to room temperature, aqueous sodium hydrogen carbonate (saturated, 2000 mL) was added and the mixture was extracted with ethyl acatate (10×500 mL). The combined organic fractions were dried (anhydrous Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA to afford the title compound as a pale yellow solid. 1H NMR (600 MHz, DMSO-D6) δ 9.21 (d, 1H); 8.53 (d, 1H); 8.47 (m, 1H); 8.46 (m, 1H); 8.15 (d, 1H); 8.14 (s, 1H); 7.78 (m, 4H); 7.39 (m, 2H); 7.32 (d, 1H); 7.24 (m, 1H); 4.63 (s, 2H); 4.22 (d, 1H); 3.88 (s, 3H). LRMS (APCI) calculated for C25H21N5O3S [M+H]+, 472.1. found 472.1.

reactant | 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(pyridin-2-ylmethyl)methanesulfonamide | 72.8 mmol, 31.0 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)NCC1=NC=CC=C1 | C21H16ClN3O3S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H pyrazole | 109 mmol, 22.72 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 240 mmol, 13.96 g | [F-].[K+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 7.28 mmol, 2.112 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
catalyst | Pd2(dba)3 | 3.64 mmol, 3.33 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 364 ml | CN(C)C=O | C3H7NO
product | 1-[3-(1-Methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]-N-(pyridin-2-ylmethyl)methanesulfonamide | CN1N=CC(=C1)C=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)NCC1=NC=CC=C1 | C25H21N5O3S
